US06897306B2
Preparation 55: (3R)-6-Cyclohexyl-3-{3-[(phenylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoic Acid
tert-Butyl (3R)-6-cyclohexyl-3-{3-[(phenylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 54) (78 mg, 0.16 mmol) was treated with trifluoroacetic acid (2 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 4 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene then dichloromethane to afford the title compound as an oil which crystallised on standing (60 mg).

reactant | tert-Butyl (3R)-6-cyclohexyl-3-{3-[(phenylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 0.16 mmol, 78 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CS(=O)(=O)C1=CC=CC=C1 | C25H36N2O5S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-{3-[(phenylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoic Acid | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CS(=O)(=O)C1=CC=CC=C1 | C21H28N2O5S
